US04107308
8-Methyl-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
A mixture of 73.4 gm. of 3-[(5-methyl-2-phenyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester and 500 ml. of diphenyl ether is reacted as described in Example 23 giving the desired product as purple crystals, m.p. 237.5°-239° C.

reactant | 3-[(5-methyl-2-phenyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1C)C1=CC=CC=C1)=S | C13H14N4S2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-Methyl-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC=1N=C(N2C(NN=CC21)=S)C2=CC=CC=C2 | C12H10N4S
